US05914328
62a. 1-BOC-azetidine-2-(R)-carboxylic acid
A 4.98 g (19.50 mmol) sample of the 1-(p-toluenesulfonyl)azetidine-2-(R)-carboxylic acid (prepared according to the procedure of Miyoshi et al., Chem. Lett., 1973:5) was suspended in 100 mL of liq. NH3 at -78° C., and sodium metal was added over a period of 1 hour until a blue color persisted. The reaction mixture was stirred for 16 hours, slowly allowing the reaction mixture to rise to room temperature. Excess K2CO3 was added (3.23 g), followed by 250 mL of THF and 10 mL of isopropanol. To this solution was added 25 mL of H2O and 5.38 mL (23.9 mmol) of di-t-butyl dicarbonate, and the reaction mixture was stirred for 18 hours. The reaction was quenched by addition of 100 mL of 10% NaOH, and the mixture was extracted with ether. The aqueous layer was acidified to pH 1 with 10% HCl, and this solution was extracted with methylene chloride. The methylene chloride extract was dried over MgSO4 and concentrated to afford 1.92 g of the title compound as an oil.

reactant | 1-(p-toluenesulfonyl)azetidine-2-(R)-carboxylic acid | C1(=CC=C(C=C1)S(=O)(=O)N1[C@H](CC1)C(=O)O)C | C11H13NO4S
reactant | sodium | [Na] | Na
reactant | K2CO3 | C(=O)([O-])[O-].[K+].[K+]
reactant | di-t-butyl dicarbonate | 23.9 mmol, 5.38 mL | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | NH3 | 100 mL | N | H3N
solvent | H2O | 25 mL | O | H2O
solvent | isopropanol | 10 mL | C(C)(C)O | C3H8O
solvent | THF | 250 mL | C1CCOC1 | C4H8O
product | 1-BOC-azetidine-2-(R)-carboxylic acid | 1.92 g | C(=O)(OC(C)(C)C)N1[C@H](CC1)C(=O)O | C9H15NO4
